US06248769B1
4-[1-(3-Cyclopentyloxy-4-methoxy-phenyl)ethyl]-5-methylpyrazol-3-one
To a stirred solution of diethyl(N-methoxy-N-methyl-carbamoylmethyl)phosphonate (2.60 g, 10.90 mmol) in dry tetrahydrofuran (50 ml) at −78° C. was added lithium diisopropylamide (1.5M solution in cyclohexane, 7.33 ml, 11 mmol) dropwise over 3 minutes. The resulting solution was stirred at −78° C. for 30 minutes, after which time 3-cyclopentyloxy-4-methoxybenzaldehyde (1.5 g, 6.81 mmol) in dry tetrahydrofuran (5 ml) was added in one portion. The reaction was allowed to warm to room temperature and stirring continued overnight. After which time the reaction mixture was diluted with water (25 ml) and the tetrahydrofuran removed in vacuo. The aqueous residue was diluted with brine (25 ml) and extracted with methylene chloride (3×60 ml). The organic extracts were dried (Na2SO4) and evaporated in vacuo to give a yellow liquid. The liquid was purified by flash chromatography (SiO2; hexane/ethyl acetate (65:35)) to afford the title compound as a pale yellow liquid (1.986 g).

reactant | diethyl(N-methoxy-N-methyl-carbamoylmethyl)phosphonate | 10.90 mmol, 2.60 g | C(C)OP(OCC)(=O)CC(N(C)OC)=O | C8H18NO5P
reactant | lithium diisopropylamide | 11 mmol, 1.5M, 7.33 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 6.81 mmol, 1.5 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 4-[1-(3-Cyclopentyloxy-4-methoxy-phenyl)ethyl]-5-methylpyrazol-3-one | 1.986 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C)C=1C(N=NC1C)=O | C18H22N2O3
